US05859014
substituting 1-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-5-fluoro-1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-fluoro-1-[2-(trimethylsilyl)ethoxymethyl)-2,4(1H,3H)-pyrimidinedione;

reactant | 1-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC1=CC(=C(C=C1)N1CCNCC1)OCC(F)(F)F | C12H14F4N2O
reactant | 3-(3-chloropropyl)-5-fluoro-1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C=C(C1=O)F)COCC[Si](C)(C)C)=O | C13H22ClFN2O3Si
product | 3-(3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-fluoro-1-[2-(trimethylsilyl)ethoxymethyl)-2,4(1H,3H)-pyrimidinedione | FC1=CC(=C(C=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)F)COCC[Si](C)(C)C)=O)OCC(F)(F)F | C25H35F5N4O4Si
